US07601716B2
[4-(4-Chlorobenzyl)piperazin-1-yl]-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-(4-chlorobenzyl)piperazine as in General Procedure 10 to give the title compound. LCMS: m/z=639.99 (M+H+); retention time=0.7 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-(4-chlorobenzyl)piperazine | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
product | [4-(4-Chlorobenzyl)piperazin-1-yl]-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone | ClC1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=CC=C2)C2=CC3=C(NCCN3CC3=C(C=CC(=C3)Cl)C(F)(F)F)N=C2)C=C1 | C33H30Cl2F3N5O
